US05364871
A mixture of 2-(diaminomethyleneamino)-4-[6-(imino)(methoxy)methylpyridin-2-yl]thiazole (2.1 g) and sulfamide (2.9 g) in 2-methoxyethanol (10.5 ml) was stirred for 3 hours at 70°-75° C. The mixture was added to water, isolated precipitate was collected by filtration and dried. The precipitate was recrystallized from a mixture of N,N-dimethylformamide and ethyl acetate to give 4-[6-(amino)(aminosulfonylimino)methylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole (1.28 g).

reactant | 2-(diaminomethyleneamino)-4-[6-(imino)(methoxy)methylpyridin-2-yl]thiazole | 2.1 g | NC(N)=NC=1SC=C(N1)C=1NC(C=CC1COC)=N | C11H14N6OS
reactant | sulfamide | 2.9 g | S(=O)(=O)(N)N | H4N2O2S
reactant | water | O | H2O
solvent | 2-methoxyethanol | 10.5 ml | COCCO | C3H8O2
product | 4-[6-(amino)(aminosulfonylimino)methylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole | 1.28 g | NC1=CC=C(C(=N1)C=1N=C(SC1)N=C(N)N)C=NS(=O)(=O)N | C10H12N8O2S2
